US08957080B2
Into a 10-mL round-bottom flask, was placed (R)—N-(4-[4-amino-1-[1-(2-cyanoacetyl)piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl)-4-(trifluoromethyl)-benzamide (65 mg, 0.12 mmol, 1.00 equiv), cyclopropanecarbaldehyde (16.6 mg, 0.24 mmol, 2.00 equiv), piperidine (10 mg, 0.12 mmol, 0.99 equiv), methanol (5 mL). The resulting solution was stirred for 12 h at 25° C. The resulting mixture was concentrated under vacuum and the residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (50:1) to give 43 mg (60%) of (R)—N-[4-(4-amino-1-[1-[2-cyano-2-(cyclopropylmethylidene)acetyl]piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl]-4-(trifluoromethyl)benzamide as a white solid. MS (ESI, pos. ion) m/z: 601 (M+1), 1HNMR (300 MHz, CDCl3, ppm), 8.6 (1H, s), 8.348 (1Hs), 8.0658.038 (2H, d, J=8.1), 7.880˜7.852 (1H, d, J=8.4), 7.768˜7.659 (4H, m), 6.532˜6.496 (1H, d, J=10.8), 5.949 (2H, s), 4.976˜4.907 (1H, m), 4.638˜3.218 (4H, m), 2.436˜1.818 (5H, m), 1.221˜1.198 (2H, m), 0.89˜0.772 (2H, m).

reactant | (R)—N-(4-[4-amino-1-[1-(2-cyanoacetyl)piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl)-4-(trifluoromethyl)-benzamide | 0.12 mmol, 65 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)[C@H]2CN(CCC2)C(CC#N)=O | C27H23F3N8O2
reactant | cyclopropanecarbaldehyde | 0.24 mmol, 16.6 mg, 2.00 equiv | C1(CC1)C=O | C4H6O
reactant | piperidine | 0.12 mmol, 10 mg, 0.99 equiv | N1CCCCC1 | C5H11N
solvent | methanol | 5 mL | CO | CH4O
product | (R)—N-[4-(4-amino-1-[1-[2-cyano-2-(cyclopropylmethylidene)acetyl]piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl]-4-(trifluoromethyl)benzamide | 43 mg, 60% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)[C@H]2CN(CCC2)C(C(=CC2CC2)C#N)=O | C31H27F3N8O2
